US05602130
Ethyl 6-[2-(4,4-dimethylchroman-6-yl)ethynyl]nicotinate
Reaction vessels used in this procedure were flame dried under vacuum and all operations were carried out in an oxygen-free, argon or nitrogen atmosphere. To a solution of 509.4 mg (2.74 mmol) of 4,4-dimethyl-6-ethynylchroman in 4 ml of dry tetrahydrofuran at 0° C. was added dropwise 1.72 ml of 1.6M (2.75 mmol) of n-buryl lithium in hexane. Stirring was commenced at 0° C. for 30 minutes and at room temperature for 15 minutes, after which the solution was cooled again to 0° C. and then treated with a solution of 380 mg (2.79 mmol) of fused zinc chloride in 5 ml of dry tetrahydrofuran using a double ended needle. The resulting solution was stirred at 0° C. for 1 hour and then at room temperature for 15 minutes. A solution of 628.6 mg (2.74 mmol) of ethyl 6-chloronicotinate in 4 ml of dry tetrahydrofuran was transferred by double ended needle into a suspension of 380 mg (0.33 mmol) of tetrakistriphenylphosphine palladium in 5 ml dry tetrahydrofuran and mixture stirred at room temperature for 15 minutes and then treated by double ended needle with the solution of alkynylzinc prepared above. The mixture was stirred at room temperature for 20 hours and then quenched with ice and 30 ml of 3N hydrogen chloride. The mixture was extracted with (MgSO4). Solvent was removed in vacuo and the residue further 3×75 ml ether and ether extracts were combined and washed successively with saturated NaHCO3 and saturated NaCl and then dried purified by flash chromatography (silica; 10% ethyl acetate in hexane) to give the title compound as a yellow solid.

reactant | 4,4-dimethyl-6-ethynylchroman | 2.74 mmol, 509.4 mg | CC1(CCOC2=CC=C(C=C12)C#C)C | C13H14O
reactant | lithium | 2.75 mmol, 1.6M | [Li] | Li
reactant | ethyl 6-chloronicotinate | 2.74 mmol, 628.6 mg | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Ethyl 6-[2-(4,4-dimethylchroman-6-yl)ethynyl]nicotinate | CC1(CCOC2=CC=C(C=C12)C#CC1=NC=C(C(=O)OCC)C=C1)C | C21H21NO3
